US05405853
c) 6-(1,3-Dithian-2-ylidene)-1-azabicyclo[3.2.1]-octane
n-Butyl lithium (6.05 ml of a 1.6M solution in hexane, 9.7 mmol) was added dropwise to a solution of 2-trimethylsilyl-1,3-dithiane (1.86 g, 9.7 mmol) in tetrahydrofuran (30 ml) at -30° C. and the reaction mixture stirred for 2 hours. A solution of 1-azabicyclo[3.2.1]octan-6-one (1.1 g, 8.8 mmol) in tetrahydrofuran (10 ml) was added dropwise and the reaction mixture allowed to warm to room temperature. Water (20 ml) was added and extracted (3×) with dichloromethane. The combined extracts were dried (MgSO4) and concentrated and the residue purified by chromatography on alumina eluting with dichloromethane/methanol (97:3) to give the title compound as a colourless oil (2 g); m/e 227 (M+); δ (360 MHz, CDCl3) 1.23-1.38 and 1.56-1.86 (1H and 3H respectively, each m, 3CH2 and 4CH2 ), 2.08-2.24 (2H, m, SCH2CH2), 2.76-3.00 (9H, m, 2×SCH2, 2CH2, 5CH and 8CH2), 3.42 (1H, d, J=17 Hz, one of 7CH2) and 3.56 (1H, d, J=17 Hz, one of 7CH2).

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | 2-trimethylsilyl-1,3-dithiane | 9.7 mmol, 1.86 g | C[Si](C1SCCCS1)(C)C | C7H16S2Si
reactant | 1-azabicyclo[3.2.1]octan-6-one | 8.8 mmol, 1.1 g | N12CCCC(C(C1)=O)C2 | C7H11NO
reactant | Water | 20 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-(1,3-Dithian-2-ylidene)-1-azabicyclo[3.2.1]-octane | 2 g | S1C(SCCC1)=C1C2CCCN(C1)C2 | C11H17NS2
